US09120823B2
To a mixture of 2-(3-ethylsulfanyl pyridin-2-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.62 g) and chloroform (10 ml) was added m-chloroperbenzoic acid (purity: not less than 65%) (0.79 g) while ice-cooling, and then the mixture was stirred at room temperature for 5 hours. To the reaction mixture was poured saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with chloroform. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 2-(3-ethylsulfinyl pyridin-2-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (87 mg), which is hereinafter referred to as “the present compound 2”, and 2-(3-ethylsulfonylpyridin-2-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.49 g), which is hereinafter referred to as “the present compound 3”.

reactant | 2-(3-ethylsulfanyl pyridin-2-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.62 g | C(C)SC=1C(=NC=CC1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C15H13F3N4S
reactant | m-chloroperbenzoic acid | 0.79 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-ethylsulfinyl pyridin-2-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 87 mg | C(C)S(=O)C=1C(=NC=CC1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C15H13F3N4OS
